US08022062B2
4-Cyano-N-cyclohexyl-2-fluoro-benzamide:
Heat a mixture of 4-bromo-N-cyclohexyl-2-fluoro-benzamide (1.24 g, 4.13 mmol) and copper cyanide (740 mg, 8.26 mmol) in DMF (20 mL) to reflux for 16 h. Cool the mixture to ambient temperature, add aqueous ethylenediamine and stir for 30 min. Extract the mixture with hexane/EtOAc (1:1), dry the organic layer over Na2SO4, filter and concentrate in vacuo. Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (5:1) to give the desired intermediate as a white solid (620 mg, 61%). MS (ES−) m/z: 245 (M−H)−.

reactant | 4-bromo-N-cyclohexyl-2-fluoro-benzamide | 4.13 mmol, 1.24 g | BrC1=CC(=C(C(=O)NC2CCCCC2)C=C1)F | C13H15BrFNO
reactant | copper cyanide | 8.26 mmol, 740 mg | [Cu](C#N)C#N
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Cyano-N-cyclohexyl-2-fluoro-benzamide | 620 mg, 61% | C(#N)C1=CC(=C(C(=O)NC2CCCCC2)C=C1)F | C14H15FN2O
